### PR TITLE
[Merged by Bors] - feat: continuity of the continuous functional calculus in each variable

### PR DESCRIPTION
**Pull request by j-loreaux**
---

- [ ] depends on: #24860

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 1]
```diff
@@ -0,0 +1,326 @@
...
+    [IsTopologicalSemiring R] [ContinuousStar R] [Ring A] [StarRing A]
+    [TopologicalSpace A] [Algebra R A] [ContinuousFunctionalCalculus R A p]
+
+/-- If `F : X → R → R` tends to `f : R → R` uniformly on the spectrum of `a`, and all
+these functions are continuous on the spectrum, then `fun x ↦ cfc (F x) a` tends
+to `cfc f a`. -/
+theorem tendsto_cfc_fun {l : Filter X} (F : X → R → R) (f : R → R) (a : A)
+    (h_tendsto : TendstoUniformlyOn F f l (spectrum R a))
+    (hF : ∀ x, ContinuousOn (F x) (spectrum R a) := by cfc_cont_tac)
+    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac) :
```
Comment (ADedecker) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean:52]: `hf` is not needed, right ?
(Got distracted while thinking about the other PR)

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 2]
```diff
@@ -0,0 +1,326 @@
...
+    rw [Metric.uniformity_basis_dist_le.forall_iff (by aesop)]
+    intro ε hε
+    simp only [Set.mem_setOf_eq, dist_eq_norm]
+    obtain ⟨g, hg, g_cont⟩ := frequently_iff.mp hf (Metric.closedBall_mem_nhds f hε)
+    simp only [Metric.mem_closedBall, dist_comm g, dist_eq_norm] at hg
+    refine ⟨_, g_cont, fun x ↦ ?_⟩
+    rw [← map_sub, cfcHomSuperset_apply]
+    rw [isometry_cfcHom (R := 𝕜) _ (ha' x) |>.norm_map_of_map_zero (map_zero (cfcHom (ha' x)))]
+    rw [ContinuousMap.norm_le _ hε.le] at hg ⊢
+    aesop
```
Comment (ADedecker) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean:126]: Here's two ways to do this, which are ultimately the same but phrased differently.

1) Consider the family `fun x ↦ cfcHomSuperset (ha' x) (ha x)`. It is equicontinuous thanks to [NormedSpace.equicontinuous_TFAE](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/NormedSpace/OperatorNorm/NormedSpace.html#NormedSpace.equicontinuous_TFAE). Thus, by [Equicontinuous.isClosed_setOf_tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Equicontinuity.html#Equicontinuous.isClosed_setOf_tendsto), it suffices to check pointwise convergence on a dense subset of `C(s, 𝕜)`. So you check on polynomials and their conjugates, and you're done.

2) The linear map `C(s, 𝕜) →ₗ[𝕜] (X →ᵤ A)` given by `fun f ↦ fun x ↦ cfcHomSuperset (ha' x) (ha x) f` is continuous because it has norm less than one. When `f` is a star-polynomial this lands in continuous functions, hence this is the case everywhere thanks to [UniformFun.isClosed_setOf_continuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergenceTopology.html#UniformFun.isClosed_setOf_continuous)

Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean:126]: I've thought about this a bit, but I don't think it's really worth it. In both cases, there's too much bundling / unbundling to be worth the trouble. I even tried implementing the first approach, but it wasn't going to be any shorter. For instance you have to first bundle `fun x ↦ cfcHomSuperset (ha' x) (ha x)` into a map `X → C(s, 𝕜) →L[𝕜] A`, instead of the current bundling `X → C(s, 𝕜) →⋆ₐ[𝕜] A`. Either that, or we would have to add a dedicated `cfcLSuperset` variant which is a melding of `cfcL` and `cfcHom`. Mind you, this is only a few lines, but there's lots of little annoyances like this, like proving equicontinuity.

That said, I understand that the equicontinuity approach is more mathematically sophisticated and gives a better understanding of what's going on. If you want to implement it, I won't complain, but I don't really think it's worth the effort.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 3]
```diff
@@ -0,0 +1,352 @@
...
+
+variable {X A : Type*} [NonUnitalNormedRing A] [StarRing A]
+    [NormedSpace ℝ A] [IsScalarTower ℝ A A] [SMulCommClass ℝ A A] [ContinuousStar A]
+    [NonUnitalIsometricContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+    [PartialOrder A] [StarOrderedRing A] [NonnegSpectrumClass ℝ A]
+    [T2Space A] [IsTopologicalRing A]
+
+open scoped NNReal in
+/-- A version of `continuous_cfcₙ` over `ℝ≥0` instead of `RCLike 𝕜`. -/
+theorem continuous_cfcₙ_nnreal [TopologicalSpace X] (s : Set ℝ≥0)
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean:329]: Is it easy to get `continuousOn` versions of this as well?

**Comment by j-loreaux** [comment]
@dupuisf I've implemented a number of changes:

1. For the continuity in the function argument, I've removed autoparams because we now take `∀ᶠ` hypotheses, and so I've also switched explicitness of some arguments. I also added `ContinuousWithinAt` variants and friends. This is done in both the unital and non-unital case.
2. For the continuity in the operator argument, I've added all the variants you might want (i.e., `Tendsto` etc.), derived from `continuousOn_cfc`, but for the moment I only did this in the unital `RCLike 𝕜` case.
3. I proved `continuousOn_cfc_nnreal` as you mentioned, so it is possible to add all these variations for the `ℝ≥0` case too. Of course, all this is doable for the non-unital case also.

If you approve of all this, I will update the `ℝ≥0` and non-unital cases to match.

File: Mathlib/Topology/ContinuousMap/ContinuousMapZero.lean [hunk 4]
```diff
@@ -52,6 +52,15 @@ instance instContinuousMapClass : ContinuousMapClass C(X, R)₀ X R where
 instance instZeroHomClass : ZeroHomClass C(X, R)₀ X R where
   map_zero f := f.map_zero'
 
+/-- not marked as an instance because it would be a bad one in general, but it can
+be useful when working with `ContinuousMapZero` and the non-unital continuous
+functional calculus. -/
+def _root_.Set.zeroOffFactMem {X : Type*} [Zero X] (s : Set X) [Fact (0 ∈ s)] :
+    Zero s where
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousMap/ContinuousMapZero.lean:59]:
```suggestion
def _root_.Set.zeroOfFactMem {X : Type*} [Zero X] (s : Set X) [Fact (0 ∈ s)] :
    Zero s where
```

**Review by dupuisf — COMMENTED** [review]
Looks good, thanks!

bors d+

File: Mathlib/Topology/ContinuousMap/ContinuousMapZero.lean [hunk 5]
```diff
@@ -52,6 +52,15 @@ instance instContinuousMapClass : ContinuousMapClass C(X, R)₀ X R where
...
+  zero := ⟨0, Fact.out⟩
+
+scoped[ContinuousMapZero] attribute [instance] Set.zeroOffFactMem
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousMap/ContinuousMapZero.lean:62]:
```suggestion
scoped[ContinuousMapZero] attribute [instance] Set.zeroOfFactMem
```

**Comment by j-loreaux** [comment]
bors merge
